US07897602B2
(Z)-3-((3-carboxyethyl-4-oxo-4,5,6,7-tetrahydro-1 H-indol-2-yl)methylene)indolin-2-one (DCB-70052):
To an EtOH solution (3.0 mL) containing (Z)-3-((3-(3-ethoxy-3-oxopropyl)-4-oxo-4,5,6,7-tetrahydro-1 H-indol-2-yl)methylene)indolin-2-one (0.50 mmol) was added 3.0 N aqueous NaOH (1.0 mL). The reaction was heated at reflux for 2.0 h and cooled to room temperature. The solution was acidified with 6 N HCl to pH 3.0. The resultant precipitate was filtered and washed with MeOH to provide the desired product. 1 H NMR (DMSO-d6) δ 13.76 (s, 1 H), 11.01 (s, 1 H), 7.77 (s, 1 H), 7.76 (d, 1 H), 7.17 (dd, 1 H), 7.01 (dd, 1 H), 6.89 (dd, 1 H), 3.15 (t, 2 H), 2.91 (t, 2H), 2.36-2.41 (m, 2 H), 2.06 (t, 2 H).

reactant | (Z)-3-((3-(3-ethoxy-3-oxopropyl)-4-oxo-4,5,6,7-tetrahydro-1 H-indol-2-yl)methylene)indolin-2-one | 0.50 mmol | C(C)OC(CCC1=C(NC=2CCCC(C12)=O)\C=C\1/C(NC2=CC=CC=C12)=O)=O | C22H22N2O4
reactant | NaOH | 3.0 N, 1.0 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | EtOH | 3.0 mL | CCO | C2H6O
product | (Z)-3-((3-carboxyethyl-4-oxo-4,5,6,7-tetrahydro-1 H-indol-2-yl)methylene)indolin-2-one | C(=O)(O)CCC1=C(NC=2CCCC(C12)=O)\C=C\1/C(NC2=CC=CC=C12)=O | C20H18N2O4
